US04645765
To a solution of 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (50 mg) in methanol (5 ml) were added sodium bicarbonate (27 mg) and 4-phenylsemicarbazide hydrochloride (59 mg). The mixture was stirred for 1 hour at ambient temperature and evaporated in vacuo. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (3:1, v/v) to afford 6,9-dihydroxy-4-(4-phenylsemicarbazonomethyl)-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (64 mg).

reactant | 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 50 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=O)O)=O | C14H15N3O6
reactant | sodium bicarbonate | 27 mg | C([O-])(O)=O.[Na+]
reactant | 4-phenylsemicarbazide hydrochloride | 59 mg | Cl.C1(=CC=CC=C1)NC(NN)=O
solvent | methanol | 5 ml | CO | CH4O
product | 6,9-dihydroxy-4-(4-phenylsemicarbazonomethyl)-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 64 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=NNC(=O)NC2=CC=CC=C2)O)=O | C21H22N6O6
